US07455959B2
a) 2-(3-Pentadecylphenoxy)butanoyl chloride
2-(3-Pentadecylphenoxy)butanoic acid (4.18 g, 0.01 mol) (CAS Registry Number 14230-52-5) and thionyl chloride (30 ml) were heated under reflux on a steam-bath for 1 h. The resulting yellow solution was allowed to cool before being distilled under reduced pressure to leave a yellow oil. The oil was dissolved in dichloromethane (50 ml) and the solution was distilled under reduced pressure to remove volatiles. The residual 2-(3-pentadecylphenoxy)butanoyl chloride was used without further purification.

reactant | 2-(3-Pentadecylphenoxy)butanoic acid | 0.01 mol, 4.18 g | C(CCCCCCCCCCCCCC)C=1C=C(OC(C(=O)O)CC)C=CC1 | C25H42O3
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3-Pentadecylphenoxy)butanoyl chloride | C(CCCCCCCCCCCCCC)C=1C=C(OC(C(=O)Cl)CC)C=CC1 | C25H41ClO2
